US05077287
Preparation 1 3-(t-butyloxycarbonyl)amino pyridine
A 76.13 g (0.81 mol) sample of 3-aminopyridine was dissolved in 500 ml of water, along with 150 ml of t-butanol and 34 g (0.85 mol) of NaOH, cooled in an ice bath, and treated with 200 g (0.92 mol) of di-t-butyldicarbonate. After about 2.5 days, another 100 g of di-t-butyl dicarbonate was added. The reaction mixture was then poured into an ethyl acetate/water mixture. The organic phase was separated and the remaining aqueous phase was extracted with ethyl acetate. The combined organic portions were dried over anhydrous sodium sulfate, concentrated in vacuo, and purified via flash chromatography to provide 97 g (80%) of the title compound.

reactant | 3-aminopyridine | NC=1C=NC=CC1 | C5H6N2
reactant | NaOH | 0.85 mol, 34 g | [OH-].[Na+]
reactant | di-t-butyldicarbonate | 0.92 mol, 200 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-t-butyl dicarbonate | 100 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | water | 500 ml | O | H2O
solvent | t-butanol | 150 ml | C(C)(C)(C)O | C4H10O
product | 3-(t-butyloxycarbonyl)amino pyridine | 97 g, 80% | C(C)(C)(C)OC(=O)NC=1C=NC=CC1 | C10H14N2O2
